US06734180B1
4-(2-indanylamino)-5-isopropylthieno[2,3-d]pyrimidine
using 4-hydroxy-5-isopropylthieno[2,3-d]pyrimidine (200 mg, 1.03 mmol), phosphorus oxychloride (1.0 ml), 2-aminoindan hydrochloride (200 mg, 1.2 mmol), triethylamine (1.0 ml, 7.2 mmol) and dry ethanol (5 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (190 mg, 0.64 mmol) having the following physical properties:

reactant | 4-hydroxy-5-isopropylthieno[2,3-d]pyrimidine | 1.03 mmol, 200 mg | OC=1C2=C(N=CN1)SC=C2C(C)C | C9H10N2OS
reactant | phosphorus oxychloride | 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-aminoindan hydrochloride | 1.2 mmol, 200 mg | Cl.NC1CC2=CC=CC=C2C1
reactant | triethylamine | 7.2 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-indanylamino)-5-isopropylthieno[2,3-d]pyrimidine | 0.64 mmol, 190 mg | C1C(CC2=CC=CC=C12)NC=1C2=C(N=CN1)SC=C2C(C)C | C18H19N3S
